US07612075B2
A. 3-(4-Chlorophenyl)-2-methyl-acryloyl azide.
To a solution of 3-(4-chlorophenyl)-2-methyl-acrylic acid (11.2 g, 57 mmol) in 500 mL of acetone at 0° C. is added triethyl amine (9.6 mL, 68 mmol) followed by ethyl chloroformate (6.2 mL, 63 mmol). The solution is allowed to warm to ambient temperatures. After 2 h, sodium azide (5.6 g, 86 mmol) in 35 mL of H2O is added. After addition, the solution is stirred for 2 hours. The solution is diluted with H2O (100 mL). The resulting solid is collected by filtration giving the title compound as a white solid (11.1 g, 50 mmol). 1H NMR (CDCl3, 300 MHz) δ7.67 (s, 1H), 3.38 (m, 4H), 2.10 9s, 3H).

reactant | 3-(4-chlorophenyl)-2-methyl-acrylic acid | 57 mmol, 11.2 g | ClC1=CC=C(C=C1)C=C(C(=O)O)C | C10H9ClO2
reactant | triethyl amine | 68 mmol, 9.6 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 63 mmol, 6.2 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 86 mmol, 5.6 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | H2O | 35 mL | O | H2O
solvent | H2O | 100 mL | O | H2O
product | 3-(4-Chlorophenyl)-2-methyl-acryloyl azide | 50 mmol, 11.1 g | ClC1=CC=C(C=C1)C=C(C(=O)N=[N+]=[N-])C | C10H8ClN3O
